US04910218
Using the procedure outlined in Example 34A, ethyl 6-ethyl-1,6-dihydropyrrolo[3,2-c]carbazole-2-carboxylate (H. G. Pars Pharmaceutical Laboratories, Inc.) gave a 90.5% yield of ethyl 6-ethyl-1,6-dihydro-1-methylpyrrolo[3,2-c]carbazole-2-carboxylate, mp 115.5°-116°, (CH2Cl2 /hexane), (C,H,N).

reactant | ethyl 6-ethyl-1,6-dihydropyrrolo[3,2-c]carbazole-2-carboxylate | C(C)N1C=2C=CC=CC2C=2C3=C(C=CC12)C=C(N3)C(=O)OCC | C19H18N2O2
reactant | CH2Cl2 hexane | C(Cl)Cl.CCCCCC
product | ethyl 6-ethyl-1,6-dihydro-1-methylpyrrolo[3,2-c]carbazole-2-carboxylate | 90.5% yield | C(C)N1C=2C=CC=CC2C=2C3=C(C=CC12)C=C(N3C)C(=O)OCC | C20H20N2O2
